US05245034
O-Benzyl-N-Benzyloxycarbonyltyrosinol
27.25 g of O-benzyl-N-benzyloxycarbonyltyrosine methyl ester was dissolved in a mixed solvent of 185 ml of ethanol and 122 ml of tetrahydrofuran, and to the solution were added 5.8 g of lithium chloride and 5.2 g of sodium borohydride under ice cooling. The reaction mixture was stirred at a room temperature for 18 hours, and after the addition of 500 ml of saturated sodium chloride aqueous solution, extracted twice with 300 ml of chloroform. The extract was dried over magnesium sulfate and concentrated under a reduced pressure to obtain 25.4 g of the title compound as colorless crystals

reactant | O-benzyl-N-benzyloxycarbonyltyrosine methyl ester | 27.25 g | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C25H25NO5
reactant | lithium chloride | 5.8 g | [Cl-].[Li+]
reactant | sodium borohydride | 5.2 g | [BH4-].[Na+]
reactant | sodium chloride | 500 ml | [Cl-].[Na+]
solvent | ethanol | 185 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 122 ml | O1CCCC1 | C4H8O
product | O-Benzyl-N-Benzyloxycarbonyltyrosinol | 25.4 g | C(C1=CC=CC=C1)OC1=CC=C(C[C@H](NC(=O)OCC2=CC=CC=C2)CO)C=C1 | C24H25NO4
